US04912098
Under the conditions of Example 8, 500 mg of 17-acetoxy-11β,21-dihydroxy-6α-methyl-4-pregnene-3,20-dione is reacted with 1.5 ml of propionic anhydride in pyridine, thus obtaining 490 mg of 17-acetoxy-11β-hydroxy-6α-methyl-21-propionyloxy-4-pregnene-3,20-dione, mp. 99°-103° C.

reactant | 17-acetoxy-11β,21-dihydroxy-6α-methyl-4-pregnene-3,20-dione | 500 mg | C(C)(=O)O[C@]1(C(CO)=O)CC[C@H]2[C@@H]3C[C@@H](C4=CC(CC[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C | C24H34O6
reactant | propionic anhydride | 1.5 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 17-acetoxy-11β-hydroxy-6α-methyl-21-propionyloxy-4-pregnene-3,20-dione | 490 mg | C(C)(=O)O[C@]1(C(COC(CC)=O)=O)CC[C@H]2[C@@H]3C[C@@H](C4=CC(CC[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C | C27H38O7
